US08039479B2
A mixture of 2-chloro-4-fluoro-5-nitro-benzoic acid (5.0 g, 22.8 mmol) and cesium carbonate (29.7 g, 91.1 mmol) in 2-propanol (100 mL) is heated at 50° C. overnight. The solvent is removed in vacuo and 100 mL of water is added. Concentrated aqueous HCl is added dropwise to this solution at 0° C. until pH=2. The product precipitate which forms is isolated by filtration, washed by water and dried under vacuum to give 2-chloro-4-isopropoxy-5-nitro-benzoic acid.

reactant | 2-chloro-4-fluoro-5-nitro-benzoic acid | 22.8 mmol, 5.0 g | ClC1=C(C(=O)O)C=C(C(=C1)F)[N+](=O)[O-] | C7H3ClFNO4
reactant | cesium carbonate | 91.1 mmol, 29.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-propanol | 100 mL | CC(C)O | C3H8O
product | 2-chloro-4-isopropoxy-5-nitro-benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)OC(C)C)[N+](=O)[O-] | C10H10ClNO5
